US05013863
A mixture of 1.4 g (5.8 mMol) of ethyl 3-aminopropyl(1,1difluorobutyl)phosphinate and 15 ml of 12 M hydrochloric acid is stirred for 8 hours at 80° C. The reaction mixture is evaporated to dryness and the residue is recrystallized from ethanol/ether giving 3-aminopropyl(1,1-difluorobutyl)phosphinic acid hydrochloride, m.p. 149-151° C.

reactant | ethyl 3-aminopropyl(1,1difluorobutyl)phosphinate | 5.8 mMol, 1.4 g | NCCCP(OCC)(=O)C(CCC)(F)F | C9H20F2NO2P
reactant | hydrochloric acid | 12 M, 15 ml | Cl | ClH
product | 3-aminopropyl(1,1-difluorobutyl)phosphinic acid hydrochloride | Cl.NCCCP(O)(=O)C(CCC)(F)F | InChI=1S/C7H16F2NO2P.ClH/c1-2-4-7(8,9)13(11,12)6-3-5-10;/h2-6,10H2,1H3,(H,11,12);1H
